US06172076B2
Preparation of 8-Benzyl-1-oxa-3,8-diaza-spiro[4.5]decan-2-one
To a solution of crude 1-benzyl-4-hydroxy-4-aminomethyl piperidine, as described above in Step A, (˜3.1 gm, 12 mmol) in acetonitrile (50 mL) containing triethyl amine (5.7 mL, 42 mmol) cooled in an ice bath was added in 1 mL portions 20% phosgene/toluene (9 mL) over a three hour period. The reaction mixture was stirred at ambient temp. for 15 hours and diluted with ethyl acetate. This solution was washed with water (2×) and the organic layer dried (anhyd. sodium sulfate), filtered, and the solvent removed under vacuum. The residue was triturated with diethyl ether and the title compound collected by filtration as a white solid, mp: 159-161° C.

reactant | 1-benzyl-4-hydroxy-4-aminomethyl piperidine | C(C1=CC=CC=C1)N1CCC(CC1)(CN)O | C13H20N2O
reactant | triethyl amine | 42 mmol, 5.7 mL | C(C)N(CC)CC | C6H15N
reactant | phosgene toluene | 9 mL | C(=O)(Cl)Cl.C1(=CC=CC=C1)C
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 8-Benzyl-1-oxa-3,8-diaza-spiro[4.5]decan-2-one | C(C1=CC=CC=C1)N1CCC2(CNC(O2)=O)CC1 | C14H18N2O2
